US08664401B2
Step C: 4-[4-(3-cyclohexylpropoxy)-2-oxopyridin-1(2H)-yl]-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide
4-[4-(3-Cyclohexylpropoxy)-2-oxopyridin-1(2H)-yl]-2-methyl-2-(methylsulfonyl)butanoic acid (190 mg, 0.451 mmol) and CDMT (95.6 mg, 0.539 mmol) were charged into a flask. The flask was flushed with nitrogen and 2-MeTHF (10 ml) was added, followed by NMM (64 uL, 0.581 mmol). The reaction mixture was stirred at RT for 1 hour. O-(tetrahydro-2H-pyran-2-yl)hydroxylamine (64 mg, 0.539 mmol) was added to the reaction mixture and stirred for 16 hours at RT. Water (25 ml) was added, the layers were separated and the aqueous layer was extracted with EtOAc (3×50 ml). The organic layers were combined and dried over sodium sulfate, filtered and concentrated in vacuo. Crude material was purified by chromatography on silica gel (70% heptane:30% ethyl acetate to 100% ethyl acetate) to afford a white solid (220 mg, 79%). MS (LC/MS) m/z 511.1 (M−1) 1H NMR (400 MHz, METHANOL-d4) δ ppm 0.93 (t, J=7.02 Hz, 3H) 1.12-1.42 (m, 9H) 1.49-1.99 (m, 10H) 2.25-2.43 (m, 1H) 2.45-2.64 (m, 1H) 3.12 (d, J=5.07 Hz, 3H) 3.51-3.68 (m, 2H) 3.82-4.03 (m, 4H) 4.08-4.26 (m, 2H) 5.03-5.14 (m, 1H) 5.94 (d, J=2.54 Hz, 1H) 6.07-6.21 (m, 1H) 7.45-7.60 (m, 1H).

reactant | 4-[4-(3-Cyclohexylpropoxy)-2-oxopyridin-1(2H)-yl]-2-methyl-2-(methylsulfonyl)butanoic acid | 0.451 mmol, 190 mg | C1(CCCCC1)CCCOC1=CC(N(C=C1)CCC(C(=O)O)(S(=O)(=O)C)C)=O | C20H31NO6S
reactant | NMM | 0.581 mmol, 64 uL | CN1CCOCC1 | C5H11NO
reactant | O-(tetrahydro-2H-pyran-2-yl)hydroxylamine | 0.539 mmol, 64 mg | O1C(CCCC1)ON | C5H11NO2
solvent | Water | 25 ml | O | H2O
product | 4-[4-(3-cyclohexylpropoxy)-2-oxopyridin-1(2H)-yl]-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide | 220 mg, 79% | C1(CCCCC1)CCCOC1=CC(N(C=C1)CCC(C(=O)NOC1OCCCC1)(S(=O)(=O)C)C)=O | C25H40N2O7S
